US04156017
N-benzyl-N-methyl-2-propinylamine;
N-(4-chlorobenzyl)-N-methyl-2-propinylamine; N-(2-chlorobenzyl)-N-methyl-2-propinylamine;

reactant | N-(4-chlorobenzyl)-N-methyl-2-propinylamine | ClC1=CC=C(CN(C)CC#C)C=C1 | C11H12ClN
reactant | N-(2-chlorobenzyl)-N-methyl-2-propinylamine | ClC1=C(CN(C)CC#C)C=CC=C1 | C11H12ClN
product | N-benzyl-N-methyl-2-propinylamine | C(C1=CC=CC=C1)N(C)CC#C | C11H13N
